* /home/mihirrana620/desktop/mihir_sr_latch/mihir_sr_latch.cir

* u5  net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u5-pad4_ net-_u5-pad5_ mihir_sr_latch
* u4  clk s r net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
* u6  net-_u5-pad4_ net-_u5-pad5_ q_out qn_out dac_bridge_2
c2  q_out gnd 1u
v1  clk gnd pulse(0 5 0.1m 0.1m 0.1m 4 8)
v2  s gnd pulse(0 5 0.1m 0.1m 0.1m 1.5 3)
v3  r gnd pulse(0 5 0.1m 0.1m 0.1m 3 6)
c1  qn_out gnd 1u
* u8  q_out plot_v1
* u7  qn_out plot_v1
* u1  clk plot_v1
* u2  s plot_v1
* u3  r plot_v1
a1 [net-_u4-pad4_ ] [net-_u4-pad5_ ] [net-_u4-pad6_ ] [net-_u5-pad4_ ] [net-_u5-pad5_ ] u5
a2 [clk s r ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
a3 [net-_u5-pad4_ net-_u5-pad5_ ] [q_out qn_out ] u6
* Schematic Name:                             mihir_sr_latch, NgSpice Name: mihir_sr_latch
.model u5 mihir_sr_latch(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.01e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(qn_out) + 6v(q_out) + 12 v(r) + 18 v(s) + 24v(clk) + 30
.endc
.end
